US08247401B2
Step D: tert-Butyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate
To a solution of tert-butyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate (1.0 g, 3.06 mmol) in dichloroethane (8 mL) was added 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (0.68 g, 1.69 mmol). The reaction mixture was heated to 50° C. After 3 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound. MS 343.0 (M+1).

reactant | tert-butyl 3-[(methylamino)carbonyl]-5-(5-methylpyridin-2-yl)benzoate | 3.06 mmol, 1.0 g | CNC(=O)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C | C19H22N2O3
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 1.69 mmol, 0.68 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | tert-Butyl 3-[(methylamino)carbonothioyl]-5-(5-methylpyridin-2-yl)benzoate | CNC(=S)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NC=C(C=C1)C | C19H22N2O2S
